US06469188B1
3-(2-methyl-2-adamantyl)-6,6-dimethylfulvene.
A flask containing 19.45 grams (90.74 mmol) of 2-methyl-2-adamantylcyclopentadiene was charged with 30 mL acetone, 100 mL methanol, and 10 mL pyrrolidine (120 mmol). The solution formed a yellow precipitate over 96 hours which was collected by suction filtration and rinsed with 50 mL methanol. The material was dried in vacuo to provide 20.36 grams of product as a yellow powder (88.2%).

reactant | 2-methyl-2-adamantylcyclopentadiene | 90.74 mmol, 19.45 grams | CC1(C2CC3CC(CC1C3)C2)C2=CC=CC2 | C16H22
reactant | acetone | 30 mL | CC(=O)C | C3H6O
reactant | pyrrolidine | 120 mmol, 10 mL | N1CCCC1 | C4H9N
solvent | methanol | 100 mL | CO | CH4O
product | 3-(2-methyl-2-adamantyl)-6,6-dimethylfulvene | 20.36 grams, 88.2% | CC1(C2CC3CC(CC1C3)C2)C=2C=CC(C2)=C(C)C | C19H26
